US09255110B2
A mixture of 7-methoxy-6-nitro-quinoline (5 g, 24.0 mmol), iron powder (9.8 g, 172 mmol) and ammonium chloride (9.1 g, 172 mmol) in a mixture of ethanol and water (3/1, 160 mL) was heated at reflux overnight. The resulting mixture was filtered through a CELITE™ pad, the filtrate was evaporated under reduced pressure and the residue was partitioned between water and ethyl acetate. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (EtOAc) to afford 3.551 g of 7-methoxy-quinolin-6-ylamine as a grey solid.

reactant | 7-methoxy-6-nitro-quinoline | 24.0 mmol, 5 g | COC1=C(C=C2C=CC=NC2=C1)[N+](=O)[O-] | C10H8N2O3
reactant | ammonium chloride | 172 mmol, 9.1 g | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
catalyst | iron | 172 mmol, 9.8 g | [Fe] | Fe
product | 7-methoxy-quinolin-6-ylamine | 3.551 g | COC1=C(C=C2C=CC=NC2=C1)N | C10H10N2O
